US05753670
4-Piperidinone (10.0 g, 73.7 mmol) and potassium carbonate (30.6 g, 221 mmol) were added to N,N-dimethylformamide (100 ml), and ethyl 3-bromopropionate (10.0 ml, 78.0 mmol) was added. The mixture was stirred at 60° C. for 4.5 hours. The reaction mixture was filtrated and the filtrate was added with a saturated aqueous sodium hydrogencarbonate solution (150 ml). The mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol=19/1) to give 9.70 g of ethyl 3-(4-oxopiperidino)propionate as a pale-yellow oil (66%).

reactant | 4-Piperidinone | 73.7 mmol, 10.0 g | N1CCC(CC1)=O | C5H9NO
reactant | potassium carbonate | 221 mmol, 30.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-bromopropionate | 78.0 mmol, 10.0 ml | BrCCC(=O)OCC | C5H9BrO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(4-oxopiperidino)propionate | 9.70 g, 66% | O=C1CCN(CC1)CCC(=O)OCC | C10H17NO3
